US07323475B2
Freshly cut sodium metal, 0.40 g, was dissolved in 22 ml of n-butanol at 65° C. under a nitrogen atmosphere. A mixture of 3.0 g of (5-iodo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester in 22 ml of n-butanol was added to the sodium butoxide solution and the reaction mixture was heated to 80° C. for 2 h. The cooled reaction mixture was acidified with 100 ml of 1 M hydrochloric acid to give a solid precipitate. The solid was collected by filtration and separated by silica gel chromatography (eluant; 19:1 dichloromethane:ethyl acetate) to give 0.219 g of 4-hydroxy-7-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester: MS-(−)-ion, M−1=386.0 amu, and 0.150 g of 4-hydroxy-6-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester: MS-(−) ion, M−1=386.0 amu.

reactant | sodium | [Na] | Na
reactant | (5-iodo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester | 3.0 g | COC(CN1C(C2=CC=C(C=C2C1=O)I)=O)=O | C11H8INO4
reactant | sodium butoxide | [O-]CCCC.[Na+]
reactant | hydrochloric acid | 1 M, 100 ml | Cl | ClH
solvent | n-butanol | 22 ml | C(CCC)O | C4H10O
solvent | n-butanol | 22 ml | C(CCC)O | C4H10O
product | 4-hydroxy-7-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester | 0.219 g | C(CCC)OC(=O)C=1NC(C2=CC(=CC=C2C1O)I)=O | C14H14INO4
